* Z:\mnt\spice-netlists\LTM4625_DC2721A-B.asc
V1 IN 0 12
C9 N002 OUT .001µ
R4 N003 OUT 121K
C16 0 OUT 22µ
Rload 0 OUT 0.3
C10 IN 0 22µ
C8 0 N003 100p
C20 0 OUT 47µ
C12 0 OUT 100µ
C2 IN OUT 10µ
C13 IN OUT 22µ
XU2 NC_01 N001 N001 N003 N002 NC_02 IN NC_03 0 OUT MP_04 MP_05 MP_06 MP_07 MP_08 MP_09 IN MP_10 IN MP_11 N001 OUT NC_12 NC_13 LTM4625
.tran .5m startup
* LTM4625 - 20Vin, 5A Step-Down DC/DC µModule\n3A Inverting Buck-Boost µModule Regulator\nInput: 4V to 15V (where Vin + |Vout| < 22V)     Output: -0.9V @ 3A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2017 Linear Technology Inc. All rights reserved.
.lib LTM4625.sub
.backanno
.end
