* Z:\mnt\spice-netlists\LTM4630_DC2007A-C.asc
V1 IN 0 12
Iload OUT 0 PULSE(0 70 750u 1u 1u 100u 300u)
C1 OUT 0 100µ
C2 N012 0 .001µ
C3 IN 0 22µ
R1 N010 0 90.9K
R2 N002 0 100K
C4 OUT 0 470µ
R3 N001 N004 10K
R4 N016 0 100K
R5 N003 0 100K
R6 N017 0 100K
Rload OUT 0 0.5
XU1 N012 N011 N010 0 N010 N011 N012 OUT NC_01 OUT 0 N009 NC_02 OUT N009 N004 N004 0 N006 MP_03 MP_04 MP_05 MP_06 NC_07 N001 IN MP_08 MP_09 MP_10 MP_11 N005 N013 NC_12 0 N002 MP_13 MP_14 NC_15 LTM4630
XU2 N012 N011 N010 0 N010 N011 N012 OUT NC_16 NC_17 NC_18 NC_19 NC_20 OUT NC_21 N004 N004 0 N008 MP_22 MP_23 MP_24 MP_25 NC_26 N001 IN MP_27 MP_28 MP_29 MP_30 N007 N015 NC_31 N014 N003 MP_32 MP_33 NC_34 LTM4630
XU3 N012 N011 N010 0 N010 N011 N012 OUT NC_35 NC_36 NC_37 NC_38 NC_39 OUT NC_40 N004 N004 0 N019 MP_41 MP_42 MP_43 MP_44 NC_45 N001 IN MP_46 MP_47 MP_48 MP_49 N018 N014 0 N013 N016 MP_50 MP_51 NC_52 LTM4630
XU4 N012 N011 N010 0 N010 N011 N012 OUT NC_53 NC_54 NC_55 NC_56 NC_57 OUT NC_58 N004 N004 0 N021 MP_59 MP_60 MP_61 MP_62 NC_63 N001 IN MP_64 MP_65 MP_66 MP_67 N020 N022 NC_68 N015 N017 MP_69 MP_70 NC_71 LTM4630
.tran 1m startup
* Note:\n  Smaller values are used for TK/SS capacitors to reduce simulation time. See datasheet for typical values.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2013 Linear Technology Inc. All rights reserved.
* LTM4630 - Dual 18A or Single 36A DC/DC µModule Regulator\nHigh Efficiency 8-Phase 140A Step-Down Regulator\nInput : 4.5V to 15V       Output: 1V @ 140A
.lib LTM4630.sub
.backanno
.end
