* Z:\mnt\spice-netlists\LTM4677_DC2143A-C.asc
V1 IN 0 12
R1 N001 N002 10K
R2 N001 N029 10K
XU1 OUT 0 N011 N019 N027 N012 N020 N029 IN NC_01 OUT N012 N020 N002 N002 NC_02 NC_03 NC_04 NC_05 NC_06 NC_07 NC_08 NC_09 IN N001 N027 OUT NC_10 N003 OUT N011 N019 NC_11 0 IN NC_12 NC_13 NC_14 N004 MP_15 0 LTM4677 VIN_ON=5.5 VIN_OFF=5 Vout_0=1.0 Vout_1=1.0 Ilim0_range=1 Ilim1_range=1 OC_limit0=1 OC_limit1=1 Mode_ll=2 Fault_response=0 Retry_delay=.1m Freq=500K PHs_0=0 PHs_1=180 Ton0_delay=.3m Ton0_rise=.5m Ton1_delay=.3m Ton1_rise=.5m Toff0_delay=.2m Toff0_fall=.3m Toff1_delay=.2m Toff1_fall=.3m Vout0_range=0 Vout1_range=0
XU2 OUT 0 N013 N021 N027 N014 N022 N029 IN NC_16 OUT N014 N022 N002 N002 NC_17 NC_18 NC_19 NC_20 NC_21 NC_22 NC_23 NC_24 IN NC_25 N027 OUT NC_26 N005 OUT N013 N021 NC_27 0 IN NC_28 NC_29 NC_30 N006 MP_31 0 LTM4677 VIN_ON=5.5 VIN_OFF=5 Vout_0=1.0 Vout_1=1.0 Ilim0_range=1 Ilim1_range=1 OC_limit0=1 OC_limit1=1 Mode_ll=2 Fault_response=0 Retry_delay=.1m Freq=500K PHs_0=90 PHs_1=270 Ton0_delay=.3m Ton0_rise=.5m Ton1_delay=.3m Ton1_rise=.5m Toff0_delay=.2m Toff0_fall=.3m Toff1_delay=.2m Toff1_fall=.3m Vout0_range=0 Vout1_range=0
XU3 OUT 0 N015 N023 N027 N016 N024 N029 IN NC_32 OUT N016 N024 N002 N002 NC_33 NC_34 NC_35 NC_36 NC_37 NC_38 NC_39 NC_40 IN NC_41 N027 OUT NC_42 N007 OUT N015 N023 NC_43 0 IN NC_44 NC_45 NC_46 N008 MP_47 0 LTM4677 VIN_ON=5.5 VIN_OFF=5 Vout_0=1.0 Vout_1=1.0 Ilim0_range=1 Ilim1_range=1 OC_limit0=1 OC_limit1=1 Mode_ll=2 Fault_response=0 Retry_delay=.1m Freq=500K PHs_0=60 PHs_1=240 Ton0_delay=.3m Ton0_rise=.5m Ton1_delay=.3m Ton1_rise=.5m Toff0_delay=.2m Toff0_fall=.3m Toff1_delay=.2m Toff1_fall=.3m Vout0_range=0 Vout1_range=0
C1 IN 0 10µ x18
C2 IN 0 150µ
Iload OUT 0 PULSE(72 108 1.3m 1u 1u .25m .5m)
XU4 OUT 0 N017 N025 N027 N018 N026 N029 IN NC_48 OUT N018 N026 N002 N002 NC_49 NC_50 NC_51 NC_52 NC_53 NC_54 NC_55 NC_56 IN NC_57 N027 OUT NC_58 N009 OUT N017 N025 NC_59 0 IN NC_60 NC_61 NC_62 N010 MP_63 0 LTM4677 VIN_ON=5.5 VIN_OFF=5 Vout_0=1.0 Vout_1=1.0 Ilim0_range=1 Ilim1_range=1 OC_limit0=1 OC_limit1=1 Mode_ll=2 Fault_response=0 Retry_delay=.1m Freq=500K PHs_0=120 PHs_1=300 Ton0_delay=.3m Ton0_rise=.5m Ton1_delay=.3m Ton1_rise=.5m Toff0_delay=.2m Toff0_fall=.3m Toff1_delay=.2m Toff1_fall=.3m Vout0_range=0 Vout1_range=0
C3 OUT 0 470µ x10
C4 OUT 0 100µ x28
C5 0 N027 220p
R3 N028 N027 2K
C6 N028 0 6800p
.tran 2m startup
* Notes: \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2016 Linear Technology Inc.  All rights reserved.
* LTM4677 - Dual 18A or Single 36A µModule Regulator with Digital Power System Management\nHigh Current, Parallel µModule Buck Regulators with Power System Management\nInput: 5.75V to 16V     Output: 1V @ 144A
* Please read the following notes carefully, since the model presents different user interface than the real part does.\n (1) All PMBus communication and memory address related functions and pins are not modeled. \n (2) Changes to all parameter values during the simulation running will not be in effect, unless the simulation is stopped and restarted. This is different from the operation of the part, which will respond to the commanded changes while running. \n (3) Share_clk is not modeled. The default time reference of LTspice is used as the common time base for all time related parameters. \n (4) The following parameters can be defined, by right-clicking the symbol of LTC3880. Different nomenclature from the datasheet is adopted here. If any value of these parameters are set beyond the scope discribed in the datasheet, the resulting simulation outcomes are not meaningful.\n      VIN_ON & VIN_OFF -- in volts, set the unit start/stop input voltages;\n     Freq -- in Hz, sets switching frequency as one of values of 250K, 350K, 425K, 500K, 575K, 650K, 750K, 1000K. FREQ_CFG pin needs to float (or short to VDD25), to make the value be in effect;\n     PHs_0 & PHs_1 -- in degree,  set phase angle related to SYNC signal. Certain combinations are restricted as in datasheet. FREQ_CFG pin needs to float (or short to VDD25), to make the value be in effect;\n     Ton0_delay & Ton0_rise; Ton1_delay & Ton1_rise -- in sec, set delay and soft-start timers for channel0 and channel1. Initialization time is not modeled;\n     Toff0_delay & Toff0_fall; Toff1_delay & Toff1_fall -- in sec, set delay and soft-off timers for channel0 and channel1;\n     Vout_0 & Vout_1 -- in volt, set output voltages respectively; Vout0_range & Vout1_range -- set maximum output range, with value 0 for 4.096V (CH0) and 5.5V (CH1); value 1 for 2.75V\n     Ilim0_range & Ilim1_range -- set maximum sensed peak current range, with value 0 for low 50mV, and 1 for high 75mV;\n     OC_limit0 & OC_limit1 -- set ratio of peak current limit to the maximum value defined by Ilimit_range. It must be one of values: 0.5, 0.572, 0.642, 0.714, 0.786, 0.858, 0.928, 1;\n     Mode_II -- sets light load operation mode: 0 for discontinuous, 1 for Burst, 2 for forced continuous;\n     Fault_response -- sets the response mode of the unit to occuring faults: 0 for ignore, 1 for latch up, 2 for Hiccup after Retry_delay time;\n     Retry_delay -- in sec, sets the timer before the unit turns on after a fault;
.lib LTM4677.sub
.backanno
.end
