* Z:\mnt\spice-netlists\LTM4642_DC2194A.asc
V1 IN 0 12
R1 N008 0 60.4K
C1 N012 0 .001µ
R2 IN N004 255K
R3 IN N003 255K
R4 N002 N001 2.2
R5 N013 0 49.9K
C2 VOUT1 0 47µ
C3 N011 0 .001µ
R6 N007 0 30.1K
XU1 IN 0 NC_01 VOUT1 N001 VOUT1 N007 0 N006 IN NC_02 VOUT2 N008 0 N010 NC_03 N001 N002 N004 N012 N009 N013 0 N001 NC_04 N003 N011 N005 IN LTM4642
C4 VOUT1 N007 220p
C5 VOUT2 N008 220p
C6 N002 0 4.7µ V=10
C7 N001 0 4.7µ V=10
C8 IN 0 22µ V=25
C9 IN 0 22µ V=25
C10 IN 0 1µ V=25
R7 N001 N005 10K
R8 N001 N006 10K
C11 VOUT2 0 22µ
C12 IN 0 100µ
C13 VOUT2 0 150µ
C14 VOUT1 0 150µ
Rload1 VOUT1 0 1.8
Rload2 VOUT2 0 1.2
.tran 1.0m startup
* Notes:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2016 Linear Technology Inc.  All rights reserved.
* LTM4642 - 20Vin, Dual 4A or Single 8A DC/DC Step-Down µModule Regulator\nWide Input Voltage, High Efficiency, Dual Buck Regulator\nInput: 4.5V to 20V     Output: 1.8V @ 4A, 1.2V @ 4A, Fsw=800kHz
.lib LTM4642.sub
.backanno
.end
