* Z:\mnt\spice-netlists\LTM4644_DC1900A.asc
XU1 NC_01 IN 0 N001 N003 NC_02 N002 NC_03 OUT1 0 NC_04 0 IN IN IN IN IN NC_05 N002 N004 NC_06 N005 NC_07 NC_08 OUT2 N002 0 N006 N007 NC_09 NC_10 OUT3 0 IN IN NC_11 N002 N008 N009 NC_12 NC_13 OUT4 0 NC_14 LTM4644
V1 IN 0 12
R1 IN N002 150K
R2 N002 0 100K
C1 OUT1 0 47µ x2
Rload1 OUT1 0 .825
R3 N001 0 13.3K
C2 N003 0 .001µ
Rload2 OUT2 0 .625
R4 N004 0 19.1K
C4 N005 0 .001µ
Rload3 OUT3 0 .375
R5 N006 0 40.2K
C6 N007 0 .001µ
Rload4 OUT4 0 .3
R6 N008 0 60.4K
C8 N009 0 .001µ
C3 OUT2 0 47µ x2
C5 OUT3 0 47µ x2
C7 OUT4 0 47µ x2
C10 IN 0 68µ
C11 IN 0 22µ x4
C9 OUT3 N006 100p
C12 OUT4 N008 100p
.tran .5m startup
* LTM4644 - Quad, DC/DC µModule Regulator with Configurable 4A Output Array\nQuad 4A Buck µModule Regulator\nInput: 4V to 14V     Outputs: 3.3V @ 4A, 2.5V @ 4A, 1.5V @ 4A, 1.2V @ 4A
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
.lib LTM4644.sub
.backanno
.end
